Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillin G / Tessalon ___
 
Attending: ___
 
Major Surgical or Invasive Procedure:
Foley placement with continuous bladder irrigation
attach
 
Pertinent Results:
ADMISSION LABS:
===============

___ 04:55PM   GLUCOSE-91 UREA N-13 CREAT-0.7 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-23 ANION GAP-12
___ 04:55PM   estGFR-Using this
___ 04:55PM   CALCIUM-8.9 PHOSPHATE-3.0 MAGNESIUM-2.1
___ 04:55PM   WBC-9.6 RBC-4.69 HGB-14.6 HCT-45.7 MCV-97 
MCH-31.1 MCHC-31.9* RDW-13.4 RDWSD-48.1*
___ 04:55PM   NEUTS-65.1 ___ MONOS-5.5 EOS-0.4* 
BASOS-0.2 IM ___ AbsNeut-6.24* AbsLymp-2.72 AbsMono-0.53 
AbsEos-0.04 AbsBaso-0.02
___ 04:55PM   PLT COUNT-157
___ 04:55PM   ___ PTT-31.7 ___
___ 04:42PM URINE  HOURS-RANDOM
___ 04:42PM URINE  UHOLD-HOLD
___ 04:42PM URINE  COLOR-Brown* APPEAR-CLOUDY* SP 
___
___ 04:42PM URINE  BLOOD-LG* NITRITE-POS* PROTEIN-70* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-6.0 
LEUK-MOD*
___ 04:42PM URINE  RBC->182* WBC-18* BACTERIA-FEW* 
YEAST-NONE EPI-0
___ 04:42PM URINE  MUCOUS-MANY*

MICRO:
======

___ 4:42 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
NITROFURANTOIN--------  <=16 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S 

IMAGING:
========

CT UROGRAM ___

IMPRESSION:  
  
1.  Marked thickening and irregularity of the bladder wall.  
Recommend 
cystoscopy for further characterization and tissue sampling. 
2.  Prostatomegaly. 
3.  Diverticulosis without diverticulitis. 
4.  1.5 cm enhancing left adrenal nodule. 
5.  Extensive atherosclerotic disease in the abdominal vessels. 

DISCHARGE LABS:
================
___ 06:49AM BLOOD WBC-8.1 RBC-4.88 Hgb-15.1 Hct-46.8 MCV-96 
MCH-30.9 MCHC-32.3 RDW-13.2 RDWSD-47.2* Plt ___
___ 06:49AM BLOOD Plt ___
___ 06:49AM BLOOD Glucose-103* UreaN-15 Creat-0.8 Na-143 
K-3.9 Cl-108 HCO3-22 AnGap-13
___ 06:49AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
SUMMARY:
====================
___ hx HTN, HLD, CAD, MI s/p DES on ASA, presented with 1 day
of hematuria with passage of clots and had 3-way Foley placed 
for continuous bladder irrigation. Uroloy was consulted. A CT 
urogram showed a thickened, irregular bladder wall mass. His 
urine cleared to yellow and the Foley was removed. The patient 
was able to urinate on his own with PVRs 100-200s. He initially 
had some gross blood after the Foley was removed which 
subsequently cleared to pink-tinged urine. He remained 
hemodynamically stable with a normal Hgb. He was treated for a 
UTI with Bactrim DS. He was discharged in stable condition with 
follow-up in 1 week to assess for continued hematuria, ability 
to urinate, and resolution of UTI. He will have Urology 
follow-up in mid ___ for outpatient cystoscopy.

TRANSITIONAL ISSUES:
====================
[] Patient was started on a 10 day course of Bactrim for coag 
neg Staph UTI, last date ___
[] Ensure patient has close follow-up with Urology (scheduled 
___ for cystoscopy to further assess bladder mass
[] Patient was continued on ASA for secondary prophylaxis of CAD 
as hematuria improved through his stay

ACUTE ISSUES:
=============
# Gross hematuria
Pt presented with 1 day of hematuria and clot passage with hx
of intermittent hematuria. High suspicion for malignancy given
significant smoking history and CTU results of irregular, 
thickened
bladder wall. The patient received a short course of continuous 
bladder irrigation through a 3-way Foley. This was subsequently 
removed with the patient maintaining ability to urinate with 
acceptable post-void residuals. The patient is on ASA 81 mg for 
secondary prevention of CAD and was continued on this given 
improvement in hematuria. His gross hematuria and clot passage 
improved to pink-tinged urine by the time of discharge. The 
patient remained hemodynamically stable with a normal Hgb. 
Urology followed the patient and recommended outpatient 
cystoscopy. The indication for re-hospitalization prior to 
outpatient cystoscopy would be recurrent significant bleeding 
with clot formation causing inability to pass clots causing 
urinary retention and suprapubic pain.
- Discharge Hgb: 15.1

# UTI 
Pt notes some increased frequency but no dysuria. UA on 
admission
with nitrites, bacteria and leukocyte esterase and decision was 
made to treat given gross hematuria and subsequent bladder mass 
and possible malignancy on CT. CT urogram with enlarged prostate 
but no inflammation or abscess. Urine culture growing coagulase 
negative staph, >100,000 CFUs. The patient was discharged for a 
planned 10 day course of Bactrim DS to end ___.

CHRONIC ISSUES:
===============
# CAD
# HTN
DES placed ___ and per patient report, clopidogrel was
discontinued after 6 months. He was continued on home aspirin, 
lisinopril, and metoprolol.

# BPH
Continued tamsulosin

# Depression
Continued home fluoxetine
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. varenicline 1 mg oral BID 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
6. Tamsulosin 0.4 mg PO QHS 
7. FLUoxetine 20 mg PO DAILY 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 14 Doses 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  FLUoxetine 20 mg PO DAILY  
5.  Lisinopril 20 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
8.  varenicline 1 mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Gross hematuria
Bladder mass
Urinary tract infection

SECONDARY DIAGNOSES:
====================
Benign prostatic hyperplasia
Coronary artery disease with 1 drug-eluting stent

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You had blood and clots passing while you were urinating

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had bladder irrigation to help stop the bleeding
- You had a CT scan of your kidneys and bladder that showed an 
irregularity in your bladder that requires further investigation
- You were scheduled for follow-up with Urology for a bladder 
scope

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor

___ you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Team  

 
Followup Instructions:
___